US05216167
2-Ethoxy-4-[N-(α-phenyl-2-piperidino-benzyl)-amino-carbonylmethyl]-cinnamic acid
Ethyl 2-ethoxy-4-[N-(α-phenyl-2-piperidino-benzyl)-aminocarbonylmethyl]-cinnamate (330 mg, 0.62 mmol) is dissolved in ethanol (10 ml) and, after the addition of 4N sodium hydroxide solution (4 ml), stirred for 3 hours at 50° C. Then the mixture is neutralized with 4N hydrochloric acid (4 ml), diluted with water and filtered off from the precipitate. It is then recrystallized from aqueous ethanol.

reactant | Ethyl 2-ethoxy-4-[N-(α-phenyl-2-piperidino-benzyl)-aminocarbonylmethyl]-cinnamate | 0.62 mmol, 330 mg | C(C)OC1=C(C=CC(=O)OCC)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1)N1CCCCC1)C1=CC=CC=C1 | C33H38N2O4
reactant | sodium hydroxide | 4N, 4 ml | [OH-].[Na+]
reactant | hydrochloric acid | 4N, 4 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-Ethoxy-4-[N-(α-phenyl-2-piperidino-benzyl)-amino-carbonylmethyl]-cinnamic acid | C(C)OC1=C(C=CC(=O)O)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1)N1CCCCC1)C1=CC=CC=C1 | C31H34N2O4
